US07897619B2
To a 25 mL of round-bottom flask was added tert-butyl 2-(5-((S)-2-amino-3-(1H-indol-3-yl)propylamino)-3-(isoquinolin-6-yl)isoxazol-4-yl)ethylcarbamate (11 mg, 21 μmol). 2 mL of 50% TFA/DCM was added to the reaction mixture dropwise. After 10 minutes, LC-MS showed that the BOC group had been removed. The reaction mixture was concentrated under reduced pressure and purified by preparative LC to give N-((S)-2-amino-3-(1H-indol-3-yl)propyl)-4-(2-aminoethyl)-3-(isoquinolin-6-yl)isoxazol-5-amine (7 mg, 79% yield). MS m/z: 427 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 9.79 (s, 1H), 8.56-8.66 (m, 2H), 8.52 (s, 1H), 8.45 (s, 1H), 8.18 (d, J=8.22 Hz, 1H), 7.60 (d, J=7.83 Hz, 1H), 7.39 (d, J=8.02 Hz, 1H), 7.26 (s, 1H), 7.14 (t, J=7.53 Hz, 1H), 7.06 (t, J=7.43 Hz, 1H), 3.75-3.79 (m, 2H), 3.62-3.71 (m, 1H), 3.20 (td, J=14.48, 7.04 Hz, 2H), 2.99 (s, 2H), 2.88 (d, J=6.46 Hz, 2H).

reactant | tert-butyl 2-(5-((S)-2-amino-3-(1H-indol-3-yl)propylamino)-3-(isoquinolin-6-yl)isoxazol-4-yl)ethylcarbamate | 21 μmol, 11 mg | N[C@H](CNC1=C(C(=NO1)C=1C=C2C=CN=CC2=CC1)CCNC(OC(C)(C)C)=O)CC1=CNC2=CC=CC=C12 | C30H34N6O3
reactant | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-((S)-2-amino-3-(1H-indol-3-yl)propyl)-4-(2-aminoethyl)-3-(isoquinolin-6-yl)isoxazol-5-amine | 7 mg, 79% yield | N[C@H](CNC1=C(C(=NO1)C=1C=C2C=CN=CC2=CC1)CCN)CC1=CNC2=CC=CC=C12 | C25H26N6O
